US05169867
N-[3 -(2-hydroxy-benzylideneaminoxy)-2-fluoropropyl]-methylamine hydrochloride
2.5 ml of 1N sodium hydroxide solution and 305 mg (2.5 mmol) of salicylaldehyde are added to a solution of 488 mg (2.5 mmol) of N-(3-aminoxy-2-fluoropropyl)-methylamine dihydrochloride in 10 ml of ethanol and the mixture is stirred for 24 hours at room temperature. The reaction mixture is then concentrated to dryness by evaporation and the residue is crystallised from ethanol/ether.

reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | salicylaldehyde | 2.5 mmol, 305 mg | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | N-(3-aminoxy-2-fluoropropyl)-methylamine dihydrochloride | 2.5 mmol, 488 mg | Cl.Cl.O(N)CC(CNC)F
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[3 -(2-hydroxy-benzylideneaminoxy)-2-fluoropropyl]-methylamine hydrochloride | Cl.OC1=C(C=NOCC(CNC)F)C=CC=C1 | InChI=1S/C11H15FN2O2.ClH/c1-13-7-10(12)8-16-14-6-9-4-2-3-5-11(9)15;/h2-6,10,13,15H,7-8H2,1H3;1H
